US03980645
To a solution of 3.77 g of 2-trichloroacetamido-5-chlorobenzophenone in 100 ml of ethanol was added 3.05 g of monoethanolamine, and the resulting mixture was refluxed for 2 hours. Then, the solvent was removed under reduced pressure. The residue was chromatographed on silica gel using chloroform as an eluent to give 2.25 g of 9-chloro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one, having a melting point of 216° - 217°C.

reactant | 2-trichloroacetamido-5-chlorobenzophenone | 3.77 g | ClC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)(Cl)Cl | C15H9Cl4NO2
reactant | monoethanolamine | 3.05 g | C(O)CN | C2H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 9-chloro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one | 2.25 g | ClC1=CC=2C3(N(C(NC2C=C1)=O)CCO3)C3=CC=CC=C3 | C16H13ClN2O2
